US08802659B2
methyl 1-((6-(tert-butyldimethylsilyloxy)naphthalen-2-yl)methyl)azetidine-3-carboxylate
6-(tert-butyldimethylsilyloxy)-2-naphthaldehyde (4.0 g, 14 mmol), AcOH (1.8 g, 28 mmol) and methyl azetidine-3-carboxylate (3.2 g, 28 mmol, 2.0 equiv) in DCE (30 mL) were stirred at 85° C. for 1 h. Then NaBH3CN (1.8 g, 28 mmol, 2.0 equiv) was added to the mixture at 50° C. and stirred for 2 h at 85° C. The reaction mixture was quenched with water, extracted with DCM and washed with brine, dried over Na2SO4 and concentrated to obtain crude product. The crude product was purified by silica gel chromatography (DCM:MeOH=40:1) to give the title compound (2.7 g, 50%) as a yellow oil. ESI-MS (M+1)+: 386.2. 1H NMR (400 MHz, CDCl3) δ: 7.72-7.68 (m, 3H), 7.37-7.34 (m, 1H), 7.15-7.10 (m, 2H), 3.94 (s, 2H), 3.81-3.76 (m, 4H), 3.74 (s, 3H), 3.50-3.44 (m, 1H), 1.02 (s, 9H), 0.25 (s, 6H).

reactant | 6-(tert-butyldimethylsilyloxy)-2-naphthaldehyde | 14 mmol, 4.0 g | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)C=O | C17H22O2Si
reactant | AcOH | 28 mmol, 1.8 g | CC(=O)O | C2H4O2
reactant | methyl azetidine-3-carboxylate | 28 mmol, 3.2 g, 2.0 equiv | N1CC(C1)C(=O)OC | C5H9NO2
reactant | NaBH3CN | 28 mmol, 1.8 g, 2.0 equiv | [BH3-]C#N.[Na+]
solvent | DCE | 30 mL | ClCCCl | C2H4Cl2
product | methyl 1-((6-(tert-butyldimethylsilyloxy)naphthalen-2-yl)methyl)azetidine-3-carboxylate | 2.7 g, 50% | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)OC | C22H31NO3Si
